US07205408B2
(a) 5-Fluoro-3H-benzoxazol-2-one
Carbonyl diimidazole (7.6 g) was added to a solution of 2-amino-4-fluorophenol (5 g, 39 mmol) in dichloromethane (0.100 ml). After 14 hours the solution was washed with 5M aqueous HCl, water, and dried over magnesium sulfate. The solution was filtered through a plug of silica and evaporated affording a white solid (4.0 g, 66%).

reactant | Carbonyl diimidazole | 7.6 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | 2-amino-4-fluorophenol | 39 mmol, 5 g | NC1=C(C=CC(=C1)F)O | C6H6FNO
solvent | dichloromethane | 0.100 ml | ClCCl | CH2Cl2
product | 5-Fluoro-3H-benzoxazol-2-one | 4.0 g, 66% | FC=1C=CC2=C(NC(O2)=O)C1 | C7H4FNO2
